US06245770B1
Preparation of 2,3-dihydro-3-propyl-2-thioxobenzo[g]quinazolin-4(1H)-one
To a suspension of 1.88 g of 3-amino-2-naphthalic acid in 25 mL of 2-propanol was added 1.39 mL of triethylamine followed by 1.02 g of n-propyl isothiocyanate with stirring. The mixture was heated at reflux for 2 h, and then allowed to cool to room temperature. The resulting solid was collected by filtration and washed with cold 2-propanol to give 1.97 g of the title compound of Step A as a yellow solid.

reactant | 3-amino-2-naphthalic acid | 1.88 g | NC=1C(=CC2=CC=CC=C2C1)C(=O)O | C11H9NO2
reactant | triethylamine | 1.39 mL | C(C)N(CC)CC | C6H15N
reactant | n-propyl isothiocyanate | 1.02 g | C(CC)N=C=S | C4H7NS
solvent | 2-propanol | 25 mL | CC(C)O | C3H8O
product | 2,3-dihydro-3-propyl-2-thioxobenzo[g]quinazolin-4(1H)-one | 1.97 g | C(CC)N1C(NC2=CC3=C(C=C2C1=O)C=CC=C3)=S | C15H14N2OS
